US08486950B2
Tert-butyl 3,5-dichloro-4-hydroxyphenylcarbamate (220 g, crude) and 2,6-dimethylpyridine (78 g, 0.73 mol) were dissolved in dichloromethane (2.0 L). Trifluoromethanesulfonic anhydride (174 g, 0.62 mol) was added dropwise at −78° C., and the mixture was stirred at room temperature for 1 hour. The reaction was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (petroleum ether/EtOAc 40:1) to give 4-(tert-butoxycarbonylamino)-2,6-dichlorophenyl trifluoromethanesulfonate (196 g, yield: 84%). 1H NMR (CDCl3, 400 MHz) δ7.51 (s, 2H), 6.60 (brs, 1H), 1.52 (s, 9H).

reactant | Tert-butyl 3,5-dichloro-4-hydroxyphenylcarbamate | 220 g | ClC=1C=C(C=C(C1O)Cl)NC(OC(C)(C)C)=O | C11H13Cl2NO3
reactant | 2,6-dimethylpyridine | 0.73 mol, 78 g | CC1=NC(=CC=C1)C | C7H9N
reactant | Trifluoromethanesulfonic anhydride | 0.62 mol, 174 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 2.0 L | ClCCl | CH2Cl2
product | 4-(tert-butoxycarbonylamino)-2,6-dichlorophenyl trifluoromethanesulfonate | 196 g, yield: 84% | FC(S(=O)(=O)OC1=C(C=C(C=C1Cl)NC(=O)OC(C)(C)C)Cl)(F)F | C12H12Cl2F3NO5S
